US07713993B2
Synthesis of tert-butyl N′-[5-chloro-2-(4-fluorophenyl)pentanoyl]hydrazinecarboxylate
IPEA (2.22 mL), HOBT (573 mg) and EDC (813 mg) were added to a solution of 5-chloro-2-(4-fluorophenyl)pentanoic acid (490 mg) synthesized according to the method described in Tetrahedron Letters, 2003, vol. 44, p. 365 and tert-butyl carbazate (420 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for 12 hours. Ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with saturated sodium bicarbonate water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 517 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 2.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 573 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-chloro-2-(4-fluorophenyl)pentanoic acid | 490 mg | ClCCCC(C(=O)O)C1=CC=C(C=C1)F | C11H12ClFO2
reactant | tert-butyl carbazate | 420 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 813 mg
product | tert-butyl N′-[5-chloro-2-(4-fluorophenyl)pentanoyl]hydrazinecarboxylate | 517 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C16H22ClFN2O3
